US09399635B2
(1) Synthesis of 4-diethylamino-2-[2-(1-piperidyl)ethoxy]benzaldehyde
In 90 mL of acetonitrile was dissolved 2.8 g (14.6 mmol) of 4-diethylaminosalicylaldehyde. To this solution were added 14.3 g (43.8 mmol) of cesium carbonate and 2.8 g (15.3 mmol) of 1-(2-chloroethyl)piperidine hydrochloride at room temperature and the mixture was stirred at 80° C. for 4 hours. Water (150 mL) was added to the resulting reaction mixture and extraction with ethyl acetate (100 mL×3) was performed. The combined organic layer was dried over anhydrous sodium sulfate. After filtration, the solvent was evaporated under reduced pressure to quantitatively give 4.5 g of the title compound.

reactant | 4-diethylaminosalicylaldehyde | 14.6 mmol, 2.8 g | C(C)N(C=1C=C(C(C=O)=CC1)O)CC | C11H15NO2
reactant | cesium carbonate | 43.8 mmol, 14.3 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-(2-chloroethyl)piperidine hydrochloride | 15.3 mmol, 2.8 g | Cl.ClCCN1CCCCC1
reactant | Water | 150 mL | O | H2O
solvent | acetonitrile | 90 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 4-diethylamino-2-[2-(1-piperidyl)ethoxy]benzaldehyde | C(C)N(C1=CC(=C(C=O)C=C1)OCCN1CCCCC1)CC | C18H28N2O2
